US05246747
B. 4-(10-bromodecyloxy)-4'-dodecylazobenzene
A 3000 ml three-necked round bottom flask was equipped with magnetic stirring, a heating mantle, a reflux condenser, and a nitrogen atmosphere. The flask was charged with 4-dodecyl-4'-hydroxyazobenzene (60.0 g, 0.164 mol), 1,10-dibromodecane, (66.95 g, 0.223 mol), potassium hydroxide (9.75 g, 0.174 mol), and ethanol (1260 ml). The stirring mixture was refluxed for seven hours. During the course of the reaction, a yellow precipitate formed in the reaction mixture. The reaction mixture then was cooled to room temperature and chilled in an ice-water bath. A crude product was isolated by suction filtration, washed with water, then with hexane. The product was recrystallized from ethyl acetate.

reactant | 4-dodecyl-4'-hydroxyazobenzene | 0.164 mol, 60.0 g | C(CCCCCCCCCCC)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)O | C24H34N2O
reactant | 1,10-dibromodecane | 0.223 mol, 66.95 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | potassium hydroxide | 0.174 mol, 9.75 g | [OH-].[K+]
solvent | ethanol | 1260 ml | C(C)O | C2H6O
product | 4-(10-bromodecyloxy)-4'-dodecylazobenzene | BrCCCCCCCCCCOC1=CC=C(C=C1)N=NC1=CC=C(C=C1)CCCCCCCCCCCC | C34H53BrN2O
